US08138194B2
4-Chloro-5,6-diphenylfuro[2,3-d]pyrimidine (0.200 g) and 4-(2-aminoethyl)aniline (0.107 g) in n-butanol (5 mL) were heated at 80° C. for 16 h. The reaction mixture was concentrated and the residue was partitioned between water and ethyl acetate. The organic layer was concentrated and the crude compound was purified by silica gel column chromatography using a mixture of dichloromethane:methanol (40:1), to give N-(4-aminophenethyl)-5,6-diphenylfuro[2,3-d]pyrimidin-4-amine (0.195 g, 74%).

reactant | 4-Chloro-5,6-diphenylfuro[2,3-d]pyrimidine | 0.200 g | ClC=1C2=C(N=CN1)OC(=C2C2=CC=CC=C2)C2=CC=CC=C2 | C18H11ClN2O
reactant | 4-(2-aminoethyl)aniline | 0.107 g | NCCC1=CC=C(N)C=C1 | C8H12N2
solvent | n-butanol | 5 mL | C(CCC)O | C4H10O
product | N-(4-aminophenethyl)-5,6-diphenylfuro[2,3-d]pyrimidin-4-amine | 0.195 g, 74% | NC1=CC=C(CCNC=2C3=C(N=CN2)OC(=C3C3=CC=CC=C3)C3=CC=CC=C3)C=C1 | C26H22N4O
